US04886810
A mixture of 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.8 g), 3-amino-3-methylpyrrolidine (0.8 g), and acetonitrile (35 ml) was stirred at 50° C. for 30 minutes. The precipitated crystals were collected by filtration, and washed with water. The crystals were dissolved in 10% aqueous ammonia, treated with activated carbon, and concentrated under reduced pressure. The precipitated crystals were collected by filtration, washed with water and dried to give 7-(3-amino-3-methyl-1-pyrrolidinyl)-1-cyclopropyl-5,6,8-trifluoro-1,4-dihydro-4-oxoquinoline 3-carboxylic acid (0.81 g), m.p. 280°-282° C.

reactant | 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.8 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)O | C13H7F4NO3
reactant | 3-amino-3-methylpyrrolidine | 0.8 g | NC1(CNCC1)C | C5H12N2
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | 7-(3-amino-3-methyl-1-pyrrolidinyl)-1-cyclopropyl-5,6,8-trifluoro-1,4-dihydro-4-oxoquinoline 3-carboxylic acid | 0.81 g | NC1(CN(CC1)C1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F)F)C | C18H18F3N3O3
